US04649153
Ring formation of 20 g (0.088 mole) of (5-ethyl-2-thienyl)succinic acid by 90 cc of acetyl chloride, performed under the conditions of example 3, provided 14.4 g (yield=78%) of (5-ethyl-2-thienyl)succinic anhydride.

reactant | (5-ethyl-2-thienyl)succinic acid | 0.088 mole, 20 g | C(C)C1=CC=C(S1)C(C(=O)O)CC(=O)O | C10H12O4S
solvent | acetyl chloride | 90 cc | C(C)(=O)Cl | C2H3ClO
product | (5-ethyl-2-thienyl)succinic anhydride | 14.4 g, yield=78% | C(C)C1=CC=C(S1)C1C(=O)OC(C1)=O | C10H10O3S
